US05516774
N-[4-(4H-Pyrazolo[5,1-c][1,4]benzodiazepin-5(10H)ylcarbonyl)-3-chlorophenyl]-2,4-dichlorobenzamide
As described for Example 518, a mixture of 0.185 g of 5,10-dihydro-4H-pyrazolo[5,1-c][1,4]benzodiazepine, 0.472 g of 4-[(2,4-dichlorobenzoyl)amino]benzoyl chloride and 0.158 g of diisopropylethylamine in 10 ml of dichloromethane is stirred at room temperature overnight to give the product (0.27 g) as a pale yellow glass; anal. calc'd: C, 58.7; H, 3.4; N, 11.0; Cl, 20.8 Found C, 57.3; H, 3.3; N, 9.5; Cl, 21.3.

reactant | 5,10-dihydro-4H-pyrazolo[5,1-c][1,4]benzodiazepine | 0.185 g | N1=CC=C2CNC3=C(CN21)C=CC=C3 | C11H11N3
reactant | 4-[(2,4-dichlorobenzoyl)amino]benzoyl chloride | 0.472 g | ClC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC(=C1)Cl | C14H8Cl3NO2
reactant | diisopropylethylamine | 0.158 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[4-(4H-Pyrazolo[5,1-c][1,4]benzodiazepin-5(10H)ylcarbonyl)-3-chlorophenyl]-2,4-dichlorobenzamide | 0.27 g | N1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=C(C=C(C=C3)NC(C3=C(C=C(C=C3)Cl)Cl)=O)Cl | C25H17Cl3N4O2
